US04851519
A solution of 0.2 g of 5'-[2-(2-acetamidophenyl)acetamido]-3'-O-acetyl-2',5'-dideoxy-5-ethyluridine in 20 ml of methanol was treated with 20 ml of methanol saturated with ammonia. The mixture was left to stand at room temperature for 17 hours. A white solid separated and was collected by filtration, washed twice with 5 ml of ethanol each time and twice with 5 ml of diethyl ether each time and subsequently dried to give 5'-[2-(2-acetamidophenyl)acetamido]-2',5'-dideoxy-5-ethyluridine of melting point 266°-267° C.

reactant | 5'-[2-(2-acetamidophenyl)acetamido]-3'-O-acetyl-2',5'-dideoxy-5-ethyluridine | 0.2 g | C(C)(=O)NC1=C(C=CC=C1)CC(=O)NC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)CC)OC(C)=O | C23H28N4O7
reactant | ammonia | N | H3N
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 5'-[2-(2-acetamidophenyl)acetamido]-2',5'-dideoxy-5-ethyluridine | C(C)(=O)NC1=C(C=CC=C1)CC(=O)NC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)CC)O | C21H26N4O6
